US06090531
Synthesis of (4-acetylphenyl) methacrylamide
Into a four-necked flask equipped with an agitator, a reflux condenser, a thermometer and a dropping apparatus were charged 135 g of (4-amino)acetophenone, 101 g of triethylamine, 500 ml of acetone and 0.5 g of methoxyphenol. To the reaction mixture was then added dropwise 105 g of methacryloyl chloride at a temperature of 10° C. in 2 hours. To the reaction solution was then added 1 l of distilled water. The resulting crystal was recovered by filtration. (Yield: 78%)

reactant | triethylamine | 101 g | C(C)N(CC)CC | C6H15N
reactant | acetone | 500 ml | CC(=O)C | C3H6O
reactant | methoxyphenol | 0.5 g | COC1=C(C=CC=C1)O | C7H8O2
reactant | methacryloyl chloride | 105 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | water | 1 l | O | H2O
product | (4-acetylphenyl) methacrylamide | Yield: 78% | C(C)(=O)C1=CC=C(C=C1)C=C(C(=O)N)C | C12H13NO2
